US04948420
Preparation of dimethyl-2-[4'-(4"-trifluoromethyl-phenoxy)-phenoxy]-propionyl-malonate
A 50% etheral solution of 39 g of 2-[4'-(4"-trifluoromethyl-phenoxy)-phenoxy]-propionyl-bromide is added dropwise under stirring to a mixture of dimethyl-ethoxy-magnesium-malonate prepared from 14.5 g of dimethyl malonate and 50 ml of ether. The addition of the acid bromide having been completed the reaction mixture is heated to boiling for an hour and worked up as described in Example 1. Thus 37 g of the desired compound are obtained in the form of a yellow viscous oil which solidifies on standing, mp.: 40°-44° C. Yield 84%.

reactant | 2-[4'-(4"-trifluoromethyl-phenoxy)-phenoxy]-propionyl-bromide | 39 g | FC(C1=CC=C(OC2=CC=C(OC(C(=O)Br)C)C=C2)C=C1)(F)F | C16H12BrF3O3
reactant | dimethyl-ethoxy-magnesium-malonate | C(CC(=O)[O-])(=O)[O-].CC(C)(O[Mg+2])C
reactant | dimethyl malonate | 14.5 g | C(CC(=O)OC)(=O)OC | C5H8O4
solvent | ether | 50 ml | CCOCC | C4H10O
product | dimethyl-2-[4'-(4"-trifluoromethyl-phenoxy)-phenoxy]-propionyl-malonate | 37 g, Yield 84% | COC(C(C(=O)OC)C(C(C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)=O)=O | C21H19F3O7
